### PR TITLE
feat:closure properties of numbers that are introspective to polynomials

### PR DESCRIPTION
**Pull request by metakunt**
Prove Part 1 of Claim 1.(i) of Theorem 6.1 in https://www3.nd.edu/~andyp/notes/AKS.pdf.

----

Zulip discussion: https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Aks.20primality.20Theorem.206.2E1.20Claim.20.28i.29.20proven

### CODE REVIEW

File: Mathlib/NumberTheory/AKSPrimality.lean [hunk 1]
```diff
@@ -0,0 +1,53 @@
...
+The goal is to formalise Theorem 2.2, but any subresults such as parts of Theorem 6.1,
+Theorem 3.1 or Lemma 4.1 are also a big step in the right direction.
+
+## Tags
+
+prime number, polynomial prime number test, AKS, Agrawal-Kayal-Saxena
+-/
+
+/-- Theorem 6.1 Claim 1 (i) part 1. -/
+lemma aks_6d1c1ip1 (p r a: ℕ) [Fact p.Prime]
```
Comment (kim-em) [inline Mathlib/NumberTheory/AKSPrimality.lean:40]:
```suggestion
lemma aks_6d1c1ip1 (p r a : ℕ) [Fact p.Prime]
```
everywhere

File: Mathlib/NumberTheory/AKSPrimality.lean [hunk 2]
```diff
@@ -0,0 +1,53 @@
...
+ (μ: primitiveRoots r (AlgebraicClosure (ZMod p))):
+ ((μ: (AlgebraicClosure (ZMod p)))-a)^p = μ^p-a :=by
+  let frob := by exact frobeniusEquiv (AlgebraicClosure (ZMod p)) p
```
Comment (kim-em) [inline Mathlib/NumberTheory/AKSPrimality.lean:43]:
```suggestion
  let frob := frobeniusEquiv (AlgebraicClosure (ZMod p)) p
```

File: Mathlib/NumberTheory/AKSPrimality.lean [hunk 3]
```diff
@@ -0,0 +1,53 @@
...
+
+## Tags
+
+prime number, polynomial prime number test, AKS, Agrawal-Kayal-Saxena
+-/
+
+/-- Theorem 6.1 Claim 1 (i) part 1. -/
+lemma aks_6d1c1ip1 (p r a: ℕ) [Fact p.Prime]
+ (μ: primitiveRoots r (AlgebraicClosure (ZMod p))):
+ ((μ: (AlgebraicClosure (ZMod p)))-a)^p = μ^p-a :=by
```
Comment (kim-em) [inline Mathlib/NumberTheory/AKSPrimality.lean:42]:
```suggestion
    (μ: primitiveRoots r (AlgebraicClosure (ZMod p))):
    ((μ: (AlgebraicClosure (ZMod p)))-a)^p = μ^p-a :=by
```
Statement must be indented 4 spaces.

Comment (kim-em) [inline Mathlib/NumberTheory/AKSPrimality.lean:42]:
```suggestion
 (μ: primitiveRoots r (AlgebraicClosure (ZMod p))):
 ((μ: (AlgebraicClosure (ZMod p)))-a)^p = μ^p-a := by
```
and below

**Comment by kim-em** [comment]
Please remove the `awaiting-author` label once you have dealt with the suggestions.

File: Mathlib/NumberTheory/AKSPrimality.lean [hunk 4]
```diff
@@ -0,0 +1,55 @@
...
+  have hfrob_cast : (a^p)= (a:(AlgebraicClosure (ZMod p))) := by
+   exact frobenius_natCast (AlgebraicClosure (ZMod p)) p a
+  have hfrob_a : (↑a)^p =frob.toFun (↑a) := by rfl
+  have hfrob_mu : ((↑μ ^ p)) = frob.toFun ((↑μ )) := by rfl
+  have hfrob_sub : frob.toFun (↑μ - ↑a) = frob.toFun (↑μ ) - frob.toFun ↑a := by
+   exact RingEquiv.map_sub frob (↑μ) ↑a
+  conv =>
+    rhs
+    rw[←hfrob_cast,hfrob_a,hfrob_mu,←hfrob_sub]
+  rfl
```
Comment (jcommelin) [inline Mathlib/NumberTheory/AKSPrimality.lean:55]: A more general version of this lemma already exists in mathlib, as the following proof demonstrates:
```suggestion
lemma prime_is_introspective_for_linear_factors (p a : ℕ) [Fact p.Prime]
    (K : Type*) [Field K] [CharP K p]
    (μ : K) :
    ((μ : K) - a)^p = μ^p-a := by
  simp [← frobenius_def]
```

File: Mathlib/NumberTheory/AKSPrimality.lean [hunk 5]
```diff
@@ -0,0 +1,56 @@
...
+variable {K : Type*}
+
+[Field K] [CharP K p]
+
+variable {μ : primitiveRoots r K}
+
+/-- Theorem 6.1 Claim 1 (i) part 1. -/
+lemma prime_is_introspective_for_linear_factors :
+    ((μ : K)-a)^p = μ^p-a := by
+  simp[← frobenius_def]
```
[the remark this answers is not in the document]
Comment (metakunt) [reply Mathlib/NumberTheory/AKSPrimality.lean:54]: I think without continuous feedback I'll be stuck quite a bit and I won't be able to have much if not any progress. Maybe once claim 1 is proven we can collapse it or just have it a private lemma.
Anyways the claim 1(i) says this 
```
we have p ∼ x − a and n/p ∼ x − a.
```
Next I'd like to show  n/p ∼ x − a, which I already did, but I guess I need to clean it up and put it in the PR
